US04230850
4-(3'-Morpholino-2-methylpropoxy)-3-phenyl-6-tert.butyl-5,6,7,8-tetrahydro-coumarin
Prepared according to the method of Example 9 from 12.8 g. (0.043 mol) of 4-hydroxy-3-phenyl-6-tert.butyl-5,6,7,8-tetrahydro-coumarin and 10.7 g. (0.061 mol) of 3-morpholino-2-methyl-1-chloropropane. The product is a thick oil which cannot be crystallised.

reactant | 4-hydroxy-3-phenyl-6-tert.butyl-5,6,7,8-tetrahydro-coumarin | 0.043 mol | OC1=C(C(OC=2CCC(CC12)C(C)(C)C)=O)C1=CC=CC=C1 | C19H22O3
reactant | 3-morpholino-2-methyl-1-chloropropane | 0.061 mol | O1CCN(CC1)CC(CCl)C | C8H16ClNO
product | 4-(3'-Morpholino-2-methylpropoxy)-3-phenyl-6-tert.butyl-5,6,7,8-tetrahydro-coumarin | O1CCN(CC1)CC(COC1=C(C(OC=2CCC(CC12)C(C)(C)C)=O)C1=CC=CC=C1)C | C27H37NO4
